US07053057B2
(S)-1-(2-Chlorobenzyloxycarbonyl)-piperidine-2-carboxylic acid methyl ester
To a vigorously stirred solution of (S)-pipecolic acid methyl ester hydrochloride (500 mg, 2.79 mmol) in dry DCM (10 mL) cooled in an ice-bath, was added dropwise Et3N (705 mg, 6.96 mmol) followed by 2-chlorobenzyl chloroformate (made from 2-chlorobenzyl alcohol using the method described in J. Med. Chem., 1998, 41, 1315–1343) (857 mg, 4.18 mmol). The resulting suspension was stirred at 0° C. for a further 0.75 h, diluted with ethyl acetate (30 mL) and poured into 1.0-M HCl (30 mL). The organic layer was separated and washed sequentially with 1.0-M HCl (20 mL), aq.NaHCO3 (20 mL) and brine (20 mL). The organic layer was then dried (NaSO4), filtered and concentrated under reduced pressure to give a colorless oil. The oil was purified by column chromatography (15% ethyl acetate in hexane) to give the title compound as a colorless viscous oil (824 mg, 95%): 1H NMR (400 MHz, CDCl3) 1.2–1.4 (1H, m), 1.4–1.6 (1H, m), 1.6–1.8 (3H, m), 2.2–2.3 (1H, m), 2.9–3.2 (1H, m), 3.7–3.8 (3H, m), 4.0–4.2 (1H, m), 4.8–5.0 (1H, m), 5.2–5.4 (2H, m), 7.2–7.3 (2H, m), 7.3–7.5 (2H, m)

reactant | (S)-pipecolic acid methyl ester hydrochloride | 2.79 mmol, 500 mg | Cl.COC([C@H]1NCCCC1)=O
reactant | Et3N | 6.96 mmol, 705 mg | CCN(CC)CC | C6H15N
reactant | 2-chlorobenzyl chloroformate | ClC(=O)OCC1=C(C=CC=C1)Cl | C8H6Cl2O2
reactant | 2-chlorobenzyl alcohol | ClC1=C(CO)C=CC=C1 | C7H7ClO
reactant | HCl | 30 mL | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (S)-1-(2-Chlorobenzyloxycarbonyl)-piperidine-2-carboxylic acid methyl ester | 824 mg, 95% | COC(=O)[C@H]1N(CCCC1)C(=O)OCC1=C(C=CC=C1)Cl | C15H18ClNO4
